* C:\Users\strad\PROM\Hardware\RSDebounce.asc
V1 N001 0 PULSE(3.3 0 0 0.1ms 0.1ms 2ms 0.2ms 10)
R1 N001 N002 330
R2 N003 N002 470
A1 N003 0 0 0 0 N004 0 0 SCHMITT
C1 N003 0 1µF
.tran 20ms
.backanno
.end
